US09340544B2
(2-Chloro-9-methyl-9H-purin-6-yl)-(4-nitro-phenyl)-amine
Was prepared according to Example 3 from N-(4-nitro-phenyl)-formamide and 2,6-dichloro-9-methyl-9H-purine.

reactant | N-(4-nitro-phenyl)-formamide | [N+](=O)([O-])C1=CC=C(C=C1)NC=O | C7H6N2O3
reactant | 2,6-dichloro-9-methyl-9H-purine | ClC1=NC(=C2N=CN(C2=N1)C)Cl | C6H4Cl2N4
product | (2-Chloro-9-methyl-9H-purin-6-yl)-(4-nitro-phenyl)-amine | ClC1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)[N+](=O)[O-] | C12H9ClN6O2
